US07378415B2
[3-(6-Benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-propyl]-methyl-amine
To 1 mL of freshly distilled THF was added 1-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-3-methylamino-propan-1-one (0.075 g, 0.210 mmol) and the resulting solution was cooled to 0° C. Borane:THF complex (0.315 mL of a 1 M solution, 0.315 mmol) was added dropwise over 2 minutes, during which offgassing was observed. The solution was warmed to reflux for 6 hours with stirring and then cooled to room temperature. Ethanolic hydrogen chloride (0.750 mL of a 2N solution, 1.5 mmol) was added dropwise accompanied by vigorous offgassing. The reaction mixture was refluxed for 2 hours at which time a white solid was observed in the solution. To the reaction mixture was added 2 mL diethyl ether and the solid was filtered and dried overnight under reduced pressure to give 0.045 g. of [3-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-propyl]-methyl-amine hydrochloride as a fluffy white solid. MS: 347 (M+H)+, mp: 188.3-193.2° C. (as hydrochloride salt).

reactant | 1-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-3-methylamino-propan-1-one | 0.210 mmol, 0.075 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)C(CCNC)=O)C=C1 | C18H20N2O4S
reactant | Borane | B | BH3
reactant | hydrogen chloride | Cl | ClH
reactant | [3-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-propyl]-methyl-amine hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)CCCNC)C=C1
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | [3-(6-Benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-propyl]-methyl-amine | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(N(CCO2)CCCNC)C1 | C18H22N2O3S
